US05747499
A reaction flask was charged with 2-methyl-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-4,6-dione (3.332 g, 10.15 mmol), diethyl p-aminobenzoyl-L-glutamate (6.54 g, 20.3 mmol), prepared as described in the Journal of Medicinal Chemistry, 1985, 28, 1428, p-toluenesulphonic acid monohydrate (0.12 g, 0.6 mmol), and dry 1,2-dimethoxyethane (100 ml), and fitted with a pressure equalising dropping funnel containing activated 3A molecular sieve beads (4-8 mesh; 41 g). A reflux condenser was fitted to the top of the dropping funnel and the mixture was stirred and heated under reflux under nitrogen for 4 hours. The apparatus enabled solvent vapour to pass up the side tube of the dropping funnel and condense in the reflux condenser, and the condensed solvent to percolate through the molecular sieves before returning to the reaction flask. The mixture was cooled to ambient temperature and a solution of sodium cyanoborohydride (1.0 g, 15.9 mmol) in methanol (18 ml) was added, followed immediately by acetic acid (1.0 ml). The mixture was stirred at ambient temperature for 18 hours and concentrated. The residue was partitioned between saturated aqueous sodium hydrogen carbonate (150 ml) and ethyl acetate (150 ml). The aqueous layer was extracted with ethyl acetate (3×25 ml) and the combined organic solution washed with brine (5×25 ml), dried (MgSO4) and concentrated to dryness. The residue was fractionated by chromatography with increasingly polar mixtures of dichloromethane and ethanol (ratio 100:0 to 100:4 v/v) as eluant. The appropriate fractions were combined and evaporated and the residue triturated with diethyl ether to give diethyl N-{p-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]-benzoyl}-L-glutamate (2.847 g, 44%), m.p. 171° C.

reactant | 2-methyl-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-4,6-dione | 10.15 mmol, 3.332 g | CC1=NC2=CC3=C(C=C2C(N1COC(C(C)(C)C)=O)=O)C(CC3)=O | C18H20N2O4
reactant | diethyl p-aminobenzoyl-L-glutamate | 20.3 mmol, 6.54 g | NC1=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1 | C16H22N2O5
reactant | p-toluenesulphonic acid monohydrate | 0.6 mmol, 0.12 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium cyanoborohydride | 15.9 mmol, 1.0 g | C(#N)[BH3-].[Na+]
solvent | methanol | 18 ml | CO | CH4O
solvent | acetic acid | 1.0 ml | C(C)(=O)O | C2H4O2
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
product | diethyl N-{p-[N-((6RS)-2-methyl-4-oxo-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-6-yl)amino]-benzoyl}-L-glutamate | 2.847 g, 44% | CC1=NC2=CC3=C(C=C2C(N1COC(C(C)(C)C)=O)=O)C(CC3)NC3=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C3 | C34H42N4O8
